US07919504B2
(S)-((2S,5R)-5-Isopropyl-3,6-dimethoxy-2,5-dihydropyrazin-2-yl)(4-(trifluoromethyl)phenyl)methanol:
To a mixture of (R)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine (5.2 mL, 29 mmol) (commercially available from 3B Scientific Corporation Product List (Order Number 3B3-054672)) and THF (50 mL) at −78° C. was added n-butyllithium (2.5 M solution in hexane, 12 mL, 31 mmol). The mixture was stirred for 15 minutes. The colorless solution turned light brown. A solution of 4-(trifluoromethyl)benzaldehyde (5.1 mL, 38 mmol) (commercially available from 3B Scientific Corporation Product List (Order Number 3B4-3644)) in THF (50 mL) was added dropwise through a dropping funnel at −78° C. The mixture was stirred for 1 hour. The reaction mixture was diluted with EtOAc and washed with a mixed solution of aqueous Na2HPO4 and KH2PO4 solution (pH=8). The aqueous layer was extracted with EtOAc three times. The combined organic layers were washed with water and brine, dried over Na2SO4, and concentrated in vacuo. The crude residue was separated into two isomers by silica gel chromatography: 0-2%-10% CH3CN—CH2Cl2. The product was obtained as light yellow oil (2.3 g, 22%). LCMS (API-ES) m/z: 359 (M+H+).

reactant | (R)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | 29 mmol, 5.2 mL | COC=1[C@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | n-butyllithium | 31 mmol, 2.5 M, 12 mL | C(CCC)[Li]
reactant | 4-(trifluoromethyl)benzaldehyde | 38 mmol, 5.1 mL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-((2S,5R)-5-Isopropyl-3,6-dimethoxy-2,5-dihydropyrazin-2-yl)(4-(trifluoromethyl)phenyl)methanol | 2.3 g, 22% | C(C)(C)[C@H]1N=C([C@@H](N=C1OC)[C@@H](O)C1=CC=C(C=C1)C(F)(F)F)OC | C17H21F3N2O3
